US07282501B2
3-[4-[2-(5-Methyl-2-phenyloxazol-4-yl)ethoxy]-2-(4-trifluoromethylphenoxymethyl)-phenyl]propionic acid
General procedure for parallel synthesis using the DynaVac Carousel apparatus. A 50 mL glass tube with screw cap and nitrogen inlet was charged with 3-{2-bromomethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}propionic acid tert-butyl ester (0.040 g, 0.080 mmol), 4-trifluoromethylphenol (0.019 g 0.12 mmol), anhydrous DMF (0.5 mL), and then cesium carbonate (0.039 g, 0.12 mmol). The mixture was stirred at ambient temperature for 16 h. MS analysis of the reaction indicated formation of the intermediate ester product [MS (ES) m/e 582 (M+1)]. The reaction mixture was poured into ether (30 mL). The organic layer was washed with brine (2×), dried (Na2SO4), and concentrated. The residue was diluted with CH2Cl2 (1 mL) and trifluroacetic acid (0.25 mL) was added. The mixture was stirred at ambient temperature for 1.5 h and was concentrated. The crude product mixture was purified by mass-directed reverse phase HPLC to provide the title compound (0.045 g, 64%). MS (ES) m/e 526 (M+1).

reactant | 3-{2-bromomethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}propionic acid tert-butyl ester | 0.080 mmol, 0.040 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CBr)=O | C26H30BrNO4
reactant | 4-trifluoromethylphenol | 0.12 mmol, 0.019 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 0.12 mmol, 0.039 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ether | 30 mL | CCOCC | C4H10O
product | 3-[4-[2-(5-Methyl-2-phenyloxazol-4-yl)ethoxy]-2-(4-trifluoromethylphenoxymethyl)-phenyl]propionic acid | 0.045 g, 64% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC(=C(C=C1)CCC(=O)O)COC1=CC=C(C=C1)C(F)(F)F | C29H26F3NO5
